US04855314
4-Methoxy-N-[2-(4-nitrophenyl)ethyl]benzeneacetamide
A solution of 4-methoxybenzeneacetic acid (8.3 g) in dry THF (250 ml) was treated with triethylamine (6.9 ml) and wooled in a salt/ice-bath with stirring under a nitrogen atmosphere. Pivaloyl chloride (6.1 ml) was added and stirring continued for 1 h. A further aliquot of triethylamine (6.9 ml) was added followed by p-nitrophenethylamine hydrochloride (10 g). The resultant suspension was warmed to room temperature and stirred for 19.5 h (overnight). The reaction mixture was acidified to pH 1 using hydrochloric acid solution (2N; 30 ml) and the resultant solution was extracted with EA (1×250 ml, 1×100 ml). The combined organic extracts were washed with 8% NaHCO3 solution (200 ml), dried (MgSO4) and evaporated under reduced pressure to give a brown oil. Purification by `flash` chromatography, ER:CH2Cl2 (4:1) gave the title compound as a pale yellow solid (7.4 g) m.p. 109°-110°.

reactant | 4-methoxybenzeneacetic acid | 8.3 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | Pivaloyl chloride | 6.1 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | p-nitrophenethylamine hydrochloride | 10 g | Cl.[N+](=O)([O-])C1=CC=C(CCN)C=C1
reactant | hydrochloric acid | 2N, 30 ml | Cl | ClH
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 6.9 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 6.9 ml | C(C)N(CC)CC | C6H15N
product | 4-Methoxy-N-[2-(4-nitrophenyl)ethyl]benzeneacetamide | 7.4 g | COC1=CC=C(C=C1)CC(=O)NCCC1=CC=C(C=C1)[N+](=O)[O-] | C17H18N2O4
